US06664259B2
N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclopentyl urea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (200 mg, 0.90 mmol) and cyclopentyl isocyanate (100 mg, 0.90 mmol) in 1.5 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. Purification upon column chromatograph on silica gel, eluting with ethyl acetate/hexane (20/80, v/v), followed by recrystallization from diethyl ether and hexane, gave the desired product (130 mg, 43%). LC-MS (m/z) 334.2 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.90 mmol, 200 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | cyclopentyl isocyanate | 0.90 mmol, 100 mg | C1(CCCC1)N=C=O | C6H9NO
solvent | N,N-dimethyl-formamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclopentyl urea | 130 mg, 43% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1CCCC1)O | C12H16ClN3O4S
